* Circuit - Emissor Comum
* Course: Circuitos Eletrônicos I - Prova Final

* Fontes
V1 in 0 SIN(0 1m 1k)
V2 cc 0 6

* Transistor
Q1 N001 N002 N003 NPN_PROVA

* Resistores
RC N001 cc 913
RL out 0 1k
RE N003 0 593.61
RB1 N002 0 9.14k
RB2 N002 cc 16.63k

* Capacitores
CE N003 0 220u
CB N002 in 1u
CC out N001 1000u

* Modelo do transistor
.model NPN_PROVA NPN(IS=3.5e-15 BF=100 VAF=100 IKF=1e9)

.end