* Circuit - Base comum com espelho de corrente 
* Course: Circuitos Eletrônicos I - Prova Final

* Fontes
V1 in 0 SIN(0 1m 1k)
V2 cc 0 5

* Transistores
Q1 out N001 N003 NPN_PROVA
Q2 N003 N004 0 NPN_PROVA
Q3 N004 N004 0 NPN_PROVA
Q4 N004 N004 0 NPN_PROVA

* Resistores
RC out cc 2k
RB1 N001 0 2k
RB2 N001 cc 3k
RB3 N004 cc 4.7k
RS N002 in 50

* Capacitores
CB N001 0 10u
CC N003 N002 10u

.model NPN_PROVA NPN(IS=2e-15 BF=100 VAF=100 IKF=1e9)

.end