* Circuit - Seguidor de Emissor
* Course: Circuitos Eletrônicos I - Prova Final

* Fontes
I1 in 0 DC 0 AC 1
V2 cc 0 5

* Transistores
Q1 cc in out NPN_PROVA
Q2 out N001 0 NPN_PROVA
Q3 N001 N001 0 NPN_PROVA

* Resistores
RB N001 cc 16.634k
RL out cc 1k

* Modelo do transistor
.model NPN_PROVA NPN(IS=3e-16 BF=100 VAF=100 IKF=1e9)

.end