* Circuit - Amplificador Emissor Comum (Análise AC)
* Course: Circuitos Eletrônicos I - Prova Final

* Fontes
V1 in 0 DC 0 AC 1
V2 cc 0 6

* Transistor
Q1 out N001 N002 NPN_PROVA

* Resistores
RC out cc 517.65
RE N002 0 1.6k
RB1 N001 0 4k
RB2 N001 cc 2k

* Capacitores
CE N002 0 1
CB N001 in 1

* Modelo do transistor
.model NPN_PROVA NPN( IS=2e-13 BF=160 VAF=100 IKF=1e9)

.end