
* Fontes
I1 in 0 DC 0 AC 1
V2 cc 0 5

Q1 out N001 in NPN_PROVA
Q2 in N004 0 NPN_PROVA
Q3 N004 N004 0 NPN_PROVA
Q4 N004 N004 0 NPN_PROVA

RC out cc 2k
RB1 N001 0 2k
RB2 N001 cc 3k
RB3 N004 cc 4.7k

CB N001 0 1

.model NPN_PROVA NPN(IS=2e-15 BF=100 VAF=100 IKF=1e9)

.end