* Fontes
I1 out 0 DC 0 AC 1
V2 cc 0 5

Q1 out N001 N003 NPN_PROVA
Q2 N003 N004 0 NPN_PROVA
Q3 N004 N004 0 NPN_PROVA
Q4 N004 N004 0 NPN_PROVA

RC out cc 2k
RB1 N001 0 2k
RB2 N001 cc 3k
RB3 N004 cc 4.7k
RS N002 0 50

CB N001 0 1
CC N003 N002 1

.model NPN_PROVA NPN(IS=2e-15 BF=100 VAF=100 IKF=1e9)

.end